* Z:\home\sdanthinne\Documents\307\gateTransistorModels\ff-test.asc
XX1 P001 N001 N002 Q Qbar s_d_flip_flop
V1 P001 0 PULSE(0 5 1u 1n 1n 2u 4u)
V2 N001 0 5
V3 N002 0 PULSE(0 5 0 1n 1n 8u 16u)

* block symbol definitions
.subckt s_d_flip_flop clk Vdd D Q Qbar
XX1 D N006 Vdd s_inv
XX2 Vdd N001 N003 N002 s_nand
XX3 Vdd N003 N005 N004 s_nand
XX4 Vdd N002 Qbar Q s_nand
XX5 Vdd Q N004 Qbar s_nand
XX8 N007 clk Vdd s_inv_slow
XX9 Vdd N007 N003 s_buf
XX6 Vdd D clk N001 s_and
XX7 Vdd clk N006 N005 s_and
.ends s_d_flip_flop

.subckt s_inv vin vout vdd
M1 vout vin vdd vdd CMOSP_0.5
M2 vout vin 0 0 CMOSN_0.5
.ends s_inv

.subckt s_nand Vdd A B Vout
M1 Vout B N001 N001 CMOSN_0.5
M2 N001 A 0 0 CMOSN_0.5
M3 Vout B Vdd Vdd CMOSP_0.5
M4 Vout A Vdd Vdd CMOSP_0.5
.lib DetailedModel.mod
.ends s_nand

.subckt s_inv_slow Vout Vin Vdd
M1 Vout Vin Vdd Vdd CMOSP_0.5 L=5m
M2 Vout Vin 0 0 CMOSN_0.5 L=2m
.ends s_inv_slow

.subckt s_buf Vdd Vin Vout
XX1 Vin P001 Vdd s_inv
XX2 P001 Vout Vdd s_inv
.ends s_buf

.subckt s_and Vdd A B Vout
M1 N001 B N002 N002 CMOSN_0.5
M2 N002 A 0 0 CMOSN_0.5
M3 N001 B Vdd Vdd CMOSP_0.5
M4 N001 A Vdd Vdd CMOSP_0.5
XX1 N001 Vout Vdd s_inv
.ends s_and

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.lib Z:\home\sdanthinne\Documents\307\gateTransistorModels\DetailedModel.mod
.tran 30u
.backanno
.end
